US08476255B2
Preparation of (2E)-7-(2,3-diphenylacrylamido)-N-hydroxy heptanamide
Hydroxylamine hydrochloride (1.4 g, 19.7 mmol) in methanol (3 mL) was mixed with KOH (1.1 g, 19.7 mmol) in methanol (2.5 mL) at 0° C. and the reaction mixture was sonicated for 5 minutes. A white precipitate was formed which was filtered. The filtrate was immediately added to the methyl-(2E)-7-(2,3-diphenylacrylamido)heptanoate (0.4 g, 1.1 mmol) in dichloromethane (1 mL) and the mixture was stirred at room temperature for 30 min. Reaction mixture was diluted with water (20 mL) and extracted with ethyl acetate, (200 mL). The organic layer was washed successively with water (3×50 mL) and brine solution (3×50 mL). The organic layer was dried over Na2SO4 and concentrated to give the crude compound, triturated with dichloromethane (20 mL), to afford the title compound as a pure colorless solid (0.230g, 58% yield). 1H NMR (DMSO-d6) δ (ppm): 1.23 (4H, m, —CH2), 1.42-1.49 (41-1, m, —CH2), 1.91-1.94 (2H, t, —CH2), 3.09-3.14 (2H, q, —CH2), 6.96-6.98 (2H, t, Ar—H), 7.15-7.17 (5H, m, Ar—H), 7.34 (1H, s, ═CH), 7.36-7.44 (4H, m, Ar—H & —NH), 9.00 (1H, s, —NH), 10.34 (1H, s, —NH). MS m/z: 367.0 (M++1). The following compounds were prepared according to the above procedure

reactant | Hydroxylamine hydrochloride | 19.7 mmol, 1.4 g | Cl.NO
reactant | KOH | 19.7 mmol, 1.1 g | [OH-].[K+]
reactant | methyl-(2E)-7-(2,3-diphenylacrylamido)heptanoate | 1.1 mmol, 0.4 g | COC(CCCCCCNC(\C(=C\C1=CC=CC=C1)\C1=CC=CC=C1)=O)=O | C23H27NO3
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 2.5 mL | CO | CH4O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | (2E)-7-(2,3-diphenylacrylamido)-N-hydroxy heptanamide | 0.230g, 58% yield | C1(=CC=CC=C1)/C(/C(=O)NCCCCCCC(=O)NO)=C\C1=CC=CC=C1 | C22H26N2O3
